Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"my boyfriend called my therapist who called an
ambulance" due to suicidal ideation
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ year old woman, originally from ___, 
currently
___ PhD student in ___ at ___, ___ of borderline
personality disorder, 1 past suicide attempt by OD of
escitalopram in ___, 3 past psychiatric hospitalizations, who
presents to the ___ ED brought in by EMS on a S12 from her
outpatient therapist for concern over suicidal and aggressive
statements made in the context of a breakup with her boyfriend
today. 

Upon initial approach, the patient is lying in the hospital
stretcher and and quietely sobbing, when approached and asked 
why
she is in the ED, the patient is non-verbal, looks up at the
examiner and continues to cry quietely. She speaks in a very,
very soft tone and is nearly inaudible. She produces a cellular
phone and states, ___ is my therapist...I can give you
his number..." [See collateral below for discussion with
therapist]

- Following discussion with therapist, this examiner spoke to 
the
patient once again and she stated, "I am here because my
boyfriend broke up with me. He was concerned about my safety so
he called my therapist. My therapist sent police to my house."
When asked what happened when the police came to her house, she
states that "they knocked, and I didn't open the door. So they
cut the door down." 

When asked if she has had thoughts of suicide today, she says
that she did. When asked if she has any thoughts on how to do 
so,
she states, "Car crash. Knives." When asked if she had the
intention to end her life today prior to being brought into the
hospital, she states, "I don't know." When asked if she had ever
tried suicide before, she states that she took 30 pills of
lexapro in ___ of this year, "but I know that it cannot kill
me, because I searched lexapro online and I know that it's very
safe." She endorses a history of 3 psychiatric hospitalizations 
-
two in ___ and one in ___. She states her diagnosis is
Borderline personality disorder and she feels that the diagnosis
fits. 

The patient was intermittently tearful and very slow to answer
questions during the interview process, with many responses
barely audible and requiring several repetitions. 

 
Past Medical History:
No known PMH
 
Social History:
___
Family History:
Psychiatric illness: 
"No one has a diagnosis"
Suicide: 
- Maternal great grandmother died by suicide at ___
 
Physical Exam:
Exam:
  *VS:  BP: 94/57  HR:67  temp: 98.0 PO resp: 16  O2 sat:99

General: Well-nourished, well-developed. Appears stated age.
* HEENT: Normocephalic. PERRL, EOMI. 
* Neck: Supple, trachea midline.
* Back: No significant deformity. No focal tenderness.
* Lungs: Clear to auscultation bilaterally. 
* CV: Regular rate and rhythm. No murmurs/rubs/gallops. 
* Abdomen: Soft, nontender, nondistended
* Extremities: No clubbing, cyanosis, or edema.
* Skin: Warm and dry. No readily apparent rashes, scars, or
lesions.

  Neurological:
    *station and gait: normal
    *tone and strength: grossly intact, anti-gravity
  *Appearance: pt appears stated age, wearing heavy coat, dark
jeans as per previous days
  Behavior: mildly irritable but cooperative
  *Mood and Affect: "better" affect anxious but with fuller 
range
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
linear and goal directed w/o LOA
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies hallucinations, denies current
suicidal ideation 
  *Judgment and Insight: good/fair
  Cognition:
    *Attention, *orientation, and executive function: attentive
to interview, oriented to self and situation
    *Memory: intact to recent events
    *Fund of knowledge: average
    *Speech: low volume, normal rate, rhythm and prosody 
    *Language: Fluent ___ w/o paraphasic errors
 
Pertinent Results:
___ 08:04PM BLOOD Glucose-90 UreaN-9 Creat-0.6 Na-137 K-3.8 
Cl-102 HCO3-21* AnGap-18
___ 08:04PM BLOOD WBC-8.1 RBC-4.02 Hgb-11.9 Hct-36.2 MCV-90 
MCH-29.6 MCHC-32.9 RDW-12.4 RDWSD-41.0 Plt ___
___ 08:04PM BLOOD ALT-10 AST-18 AlkPhos-40
___ 08:04PM BLOOD VitB12-478
___ 08:04PM BLOOD TSH-0.90
___ 08:04PM BLOOD 25VitD-21*
___ 08:04PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  

On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___. At that time the patient signed a conditional 
voluntary. She was also placed on 15 minute checks status on 
admission and remained on that level of observation throughout 
while being unit restricted.

 

2. PSYCHIATRIC:
#) Depressed Mood
Pt admitted on ___ and initiated on sertraline 25mg 
daily over the weekend. On ___ she reported minimal 
improvement and started Lithium 300mg BID. Lorazepam 0.5mg BID 
prn anxiety or insomnia was employed to good effect, and pt 
reported no strong mood fluctuations by ___. Nursing expressed 
concern that pt may be dissociating, and although pt endorses 
being lost in her thoughts sometimes, she denies frank episodes 
of dissociating. On ___ she was able to therapeutically engage 
with this writer in telling the narrative of her relationship 
problems, voicing that these issues have not been discussed in 
outpatient therapy. She denies having suicidal thoughts since 
weekend, and is becoming more future oriented. Haldol 0.5mg qHS 
started ___ for intrusive thoughts. 
-Sertraline 25mg daily 
-Lithium 300mg BID
-Haldol 0.5mg qHS

 
3. SUBSTANCE USE DISORDERS:
#)Pt does not have any disordered use of substances

4. MEDICAL
#)Pt has no known medical problems

 
5. PSYCHOSOCIAL

#) GROUPS/MILIEU:  

The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. Pt 
attended several groups, citing in particular a coping skills 
group she found helped. For most of the admission pt worked on 
her school work, and did not engage much with the milieu or 
staff.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Spoke with pt's outpatient therapist at admission who has worked 
with pt for about 1 month. He expressed concern that pt is 
particularly high risk given the severe lack of social support 
outside of her boyfriend who broke up with her just prior to 
admission. Patient's mother flew in from ___ on ___ and will 
be staying until ___. She was not to be told of pt's 
romantic involvements which was accommodated during family 
meeting ___. During the meeting the team, including a ___ 
interpreter, discussed pt's diagnosis, hospital course, 
medications and possible side effects, and discharge planning. 
At that time, it was felt that pt was safe to be discharged in 
the care of her mother. 
-Mother: ___ ___ 
 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting lithium and sertraline, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient.   We discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any  questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon pt's acute suicidal 
ideation with a plan.  Their static factors noted at that time 
included  previous suicide attempts, chronic mental illness, 
single status.
The modifiable risk factors were also addressed at that time. 
Active suicidal ideation was addressed by engaging with pt 
around acute stressors, teaching coping skills, starting 
medications. Acute psychosocial stressor of breakup with 
boyfriend was discussed on several occasions, emphasizing that 
romantic relationships come and go, and they should not be 
elevated to level of family. Finally, the patient is being 
discharged with many protective risk factors, including 
consistent outpatient follow-up, employment, stable housing, no 
chronic substance use, no access to lethal weapons, and having 
live-in support of mother until ___.  Overall, Based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 

 

Our Prognosis of this patient is fair. 

 
Medications on Admission:
No medications on admission
 
Discharge Medications:
1.  Haloperidol 0.5 mg PO QHS 
RX *haloperidol 0.5 mg 1 tablet(s) by mouth Each night Disp #*30 
Tablet Refills:*0 
2.  Lithium Carbonate 300 mg PO BID 
RX *lithium carbonate 300 mg 1 capsule(s) by mouth Twice per day 
Disp #*60 Capsule Refills:*0 
3.  Sertraline 25 mg PO DAILY 
RX *sertraline 25 mg 1 tablet(s) by mouth Each day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Borderline Personality Disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were hospitalized at ___ for thoughts of ending your life. 
 

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.

-Please continue all medications as directed.

-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.

-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___